US04414154
18.1 g. (64.9 mmole) of 5-(N-acetylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene in 200 ml. of dry tetrahydrofuran was treated with 0.3 g. of triphenylmethane and stirred in an ice bath under nitrogen. The amide solution was added dropwise from the addition funnel at a rate sufficiently slow to maintain the reaction temperature below 15° C., until the color of the triphenylmethide anion persisted. The mixture was stirred for 15 minutes in the ice bath, then treated with 20 ml. (45.6 g., 314 mmole) of methyliodide added rapidly (<5 min). The resulting solution was stirred for 2 hours, with the temperature held below 30° C. by ice cooling as necessary, then treated with 30 ml. of water. Nitrogen was bubbled through the mixture overnight, and the remaining liquid evaporated in vacuo. The residue was treated with 300 ml. of water and extracted three times with chloroform. The chloroform extracts were washed once with dilute sodium bisulfite solution and twice with water, dried over potassium carbonate, filtered, and evaporated in vacuo to 33 g. of red oil. The oil was washed four times with petroleum ether and evaporated in vacuo to give 16.0 g. of foam which was dissolved in 10 ml. of warm toluene, diluted with 250 ml. of diethyl ether, and refrigerated overnight to precipitate unreacted starting amide. The solution was filtered and the filtrate was evaporated in vacuo to give 5-(N-acetyl-N-methylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene, (10.5 g.) as an orange oil.

reactant | 5-(N-acetylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | 64.9 mmole | C(C)(=O)NC1CCC2=C(C(C3=C1C=CC=C3)C)C=CC=C2 | C19H21NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | methyliodide | 314 mmole, 45.6 g | CI | CH3I
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(N-acetyl-N-methylamino)-12-methyl-5,6,7,12-tetrahydrodibenzo[a,d]cyclooctene | C(C)(=O)N(C)C1CCC2=C(C(C3=C1C=CC=C3)C)C=CC=C2 | C20H23NO
